US07777047B2
N-[2-(benzylthio)-3-oxopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide
A mixture of N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide (600 mg), Amberlyst (registered trade ark) 15 ion exchange resin (120 mg), water (0.05 mL) and acetone (15 mL) was stirred at room temperature for 15 hr. The insoluble substance was removed by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-3:1, volume ratio) to give the title compound (560 mg, yield 100%) as a colorless amorphous solid.

reactant | N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 600 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C)C(OC)OC | C27H28F3N3O6S3
reactant | water | 0.05 mL | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | N-[2-(benzylthio)-3-oxopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 560 mg, yield 100% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C)C=O | C25H22F3N3O5S3
